US04587346
2-(2-Hydroxy-3-tetracosyl-5-methylphenyl)-2H-benzotriazole
Using the general procedure of Example 1, 112 grams of 2-(2-hydroxy-5-methylphenyl)-2H-benzotriazole, 33 ml of methanesulfonic acid and 444 ml (2 moles) of a mixture of tetracosenes (prepared by the dimerization of n-dodecene) are heated at 160° C.; for 96 hours. The reaction mixture is cooled and the product isolated by the general procedure described in Example 1. The excess hydrocarbons are removed by distillation at 190° C./0.04 mm. The above-named product is obtained in a yield of 103.6 grams as a yellow liquid. The liquid still contained inert hydrocarbon diluents which are removed by flash chromatography using silica gel and heptane/toluene 75/25 to give a pure product in a yield of 15 grams as a yellow liquid.

reactant | 2-(2-hydroxy-5-methylphenyl)-2H-benzotriazole | 112 grams | OC1=C(C=C(C=C1)C)N1N=C2C(=N1)C=CC=C2 | C13H11N3O
reactant | methanesulfonic acid | 33 ml | CS(=O)(=O)O | CH4O3S
reactant | n-dodecene | C=CCCCCCCCCCC | C12H24
product | 2-(2-Hydroxy-3-tetracosyl-5-methylphenyl)-2H-benzotriazole | OC1=C(C=C(C=C1CCCCCCCCCCCCCCCCCCCCCCCC)C)N1N=C2C(=N1)C=CC=C2 | C37H59N3O
